US09428528B2
Step 2 Preparation of N-{(1R,2R)-2-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-difluoro-acetamide
To a solution of 1-{(4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl}-2,2-difluoro-ethanone (0.070 g, 0.166 mmol) in CH2Cl2 (5 mL) is added trifluoroacetic acid (1.0 mL). The resulting reaction mixture is stirred at room temperature for 5 hours. Concentrated to get the crude residue and diluted with aqueous bicarbonate solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 15% methanol in CH2Cl2 as an eluent. Obtained solid is washed with n-pentane and diethyl ether to afford the title compound (0.030 g). 1HNMR (400 MHz, DMSO-d6) δ: 2.44 (s, 6H), 3.90 (bs, 2H), 4.28-4.30 (m, 1H), 4.31-4.33 (m, 0.5H), 4.41-4.45 (m, 0.5H), 4.54-4.55 (m, 0.5H), 4.65-4.68 (m, 0.5H), 4.89 (t, J=4.0 Hz, 1H), 5.93 (d, J=4.56 Hz, 1H), 6.20 (t, J=53.76 Hz, 1H), 7.47 (d, J=8.24 Hz, 2H), 7.53 (d, J=8.16 Hz, 1H), 7.72 (d, J=8.24 Hz, 2H), 8.11-8.13 (m, 1H), 8.84-8.87 (m, 2H). LC-MS (m/z): [M+H]=382.1.

reactant | 1-{(4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl}-2,2-difluoro-ethanone | 0.166 mmol, 0.070 g | CN(C)CC1=CC=C(C=N1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C22H26F3N3O2
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | bicarbonate | C([O-])(O)=O
product | N-{(1R,2R)-2-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-difluoro-acetamide | 0.030 g | CN(C)CC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H]([C@H](CF)NC(C(F)F)=O)O | C19H22F3N3O2
